NAND test CELL-005 CELL-014
.include yap_cells.lib
VDD vdd 0 DC 3.3
Va a 0 DC 0
Vb b 0 DC 0
X1 a b y vdd 0 NAND
CL y 0 5p
.control
set filetype=ascii
op
print v(y)
alter Va = 0
alter Vb = 3.3
op
print v(y)
alter Va = 3.3
alter Vb = 0
op
print v(y)
alter Va = 3.3
alter Vb = 3.3
op
print v(y)
.endc
.end
